US06579879B2
6-(5-Chloro-3-methyl-benzofuran-2-sulfinyl)-2H-pyridazin-3-one
A mixture of 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-2H-pyridazin-3-one (prepared according to the method of Example 2, Step B) (5.0 g, 17.0 mmol), peracetic acid (1.9 g, 25.0 mmol) and acetic acid (20 mL) was stirred at room temperature for two hours. The reaction mixture was quenched with ice-cold water (30 mL) and the precipitated solid was filtered. The solid residue was washed with water (2×10 mL) and then air-dried to obtain the title compound of Example 50 (3.55 g, 73%); mp 234° C.-236° C.

reactant | 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-2H-pyridazin-3-one | ClC=1C=CC2=C(C(=C(O2)SC=2C=CC(NN2)=O)C)C1 | C13H9ClN2O2S
reactant | peracetic acid | 25.0 mmol, 1.9 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-(5-Chloro-3-methyl-benzofuran-2-sulfinyl)-2H-pyridazin-3-one | 3.55 g, 73% | ClC=1C=CC2=C(C(=C(O2)S(=O)C=2C=CC(NN2)=O)C)C1 | C13H9ClN2O3S
